US06498165B1
Step C: (R)-1-(3-Tert-butyloxycarbonylphenyl)ethylmethanesulfonyl Ether
(R)-1-(3-Tert-butyloxycarbonylphenyl)ethanol (3.28 mmol) was dissolved in CH2Cl2 (10 mL), diisopropylethylamine (4.92 mmol) added and the resultant solution cooled to 0° C. This mixture was stirred as methanesulfonyl chloride (3.94 mmol) was added dropwise. After 45 min the mixture was poured into water and extracted 3× with diethyl ether. The organic extracts were combined, washed with brine, dried (MgSO4) and concentrated under reduced pressure to yield 1.01 g of an oil which was used with out further purification. 1H NMR (500 MHz, CDCl3): δ 8.03 (m, 1H); 8.01 (m, 1H); 7.60 (m, 1H); 7.48 (t, J=7.6 Hz, 1H); 5.80 (q, J=6.6 Hz, 1H); 2.81 (s, 3H); 1.76 (d, J=6.6 Hz, 3H); 1.63 (s, 9H).

reactant | (R)-1-(3-Tert-butyloxycarbonylphenyl)ethanol | 3.28 mmol | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)[C@@H](C)O | C13H18O3
reactant | diisopropylethylamine | 4.92 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 3.94 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-Tert-butyloxycarbonylphenyl)ethylmethanesulfonyl Ether | 1.01 g | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)[C@@H](C)OS(=O)(=O)C | C14H20O5S
